US08426420B2
ii) 1-((S)-1-Benzyl-pyrrolidin-2-yl)-butane-1,3-dione 3-oxime
To 12.5 ml BuLi (1.6 M in hexane) was added a solution of 0.73 g acetone oxime in 8 ml THF at 0° C. After 30 minutes a solution of 1.0 g (S)-1-Benzyl-pyrrolidine-2-carboxylic acid methyl ester in 5 ml THF was added dropwise over a period of 20 minutes at this temperature. The resulting suspension was stirred for another 3 h at 0° C. before being cannulated into 21 ml 3 M HCl. The phases were separated; the aqueous phase was brought to pH8 using solid NaHCO3 and extracted with dichloromethane (3×) to give the crude product. Yield: 1.3 g mixture of E/Z isomers.

reactant | BuLi | 1.6 M, 12.5 ml | [Li]CCCC
reactant | acetone oxime | 0.73 g | CC(C)=NO | C3H7NO
reactant | (S)-1-Benzyl-pyrrolidine-2-carboxylic acid methyl ester | 1.0 g | COC(=O)[C@H]1N(CCC1)CC1=CC=CC=C1 | C13H17NO2
reactant | HCl | 3 M, 21 ml | Cl | ClH
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-((S)-1-Benzyl-pyrrolidin-2-yl)-butane-1,3-dione 3-oxime | C(C1=CC=CC=C1)N1[C@@H](CCC1)C(CC(C)=NO)=O | C15H20N2O2
